US07332508B2
1-(4-{3-[1-(1-Ethylpropyl)piperidin-4-ylmethyl][1,2,4]oxadiazol-5-yl}benzyl)-4-phenyl-1,2,3,6-tetrahydropyridine, Dihydrochloride
The title compound was prepared by a similar procedure to that described in Example 23, starting from 4-[5-(4-(chloromethyl)phenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-(1-ethylpropyl)piperidine and 4-phenyl-1,2,3,6-tetrahydropyridine. HPLC: Rt=10.24 min.

reactant | 4-[5-(4-(chloromethyl)phenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-(1-ethylpropyl)piperidine | ClCC1=CC=C(C=C1)C1=NC(=NO1)CC1CCN(CC1)C(CC)CC | C20H28ClN3O
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
product | 1-(4-{3-[1-(1-Ethylpropyl)piperidin-4-ylmethyl][1,2,4]oxadiazol-5-yl}benzyl)-4-phenyl-1,2,3,6-tetrahydropyridine, Dihydrochloride | Cl.Cl.C(C)C(CC)N1CCC(CC1)CC1=NOC(=N1)C1=CC=C(CN2CCC(=CC2)C2=CC=CC=C2)C=C1 | InChI=1S/C31H40N4O.2ClH/c1-3-29(4-2)35-20-14-24(15-21-35)22-30-32-31(36-33-30)28-12-10-25(11-13-28)23-34-18-16-27(17-19-34)26-8-6-5-7-9-26;;/h5-13,16,24,29H,3-4,14-15,17-23H2,1-2H3;2*1H
